US04845242
Homophthalic acid (18 g, 0.1 mole) and 3-(benzyloxycarbonylamino)-1-propanol (41 g, 0.2 mole) were heated in 150 ml of benzene at 120°-130° C. for 2 hrs in the presence of a few drops of conc. H2SO4. Benzene was evaporated, and 200 ml of ethylacetate was added. The organic solution was washed with 4% NaHCO3 twice (150 ml×2). The aqueous layer which contained the monoester salt was acidified with 5N HCl and extracted with ethylacetate. 33 g of 3-(benzyloxycarbonylamino)propyl 2-carboxyphenylacetate (yield, 89%) was obtained after the solvent was evaporated. Hydrogenation of this monoester (1.86 g, 5 mmole) was performed in methanol containing 0.3 ml of acetic acid and 10% palladium on carbon to give 1 g of 3-aminopropyl 2-carboxphenylacetate.HAc (yield, 67%). This compound was identified by its NMR spectrum and TLC (Butanol:acetic acid:pyridine:water=4:1:1:2). 2 g of 3-aminopropyl 2-carboxyphenylacetate.HAc (3 mmole) was heated with 1.6 g of PCl5 (7.5 mmole) in 50 ml of anhydrous THF at 70°-80° for 2 hrs, a white precipitate formed. This white solid was purified by column chromatography (methylene chloride:methanol=5:1) and crystalline from MeOH-ether to give 0.2 g of 3-(3-aminopropoxy)isocoumarin.HCl (yield, 26%), m.p. 173°-174° C.; mass spectrum, m/e=220 (M + -Cl). Anal. Calc. for C12H14N1O3Cl1 : C, 56.37; H, 5.52; N, 5.48; Cl, 13.87. Found: C, 56.15; H, 5.49; N, 5.44; Cl 13.95.

reactant | Homophthalic acid | 0.1 mole, 18 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | 3-(benzyloxycarbonylamino)-1-propanol | 0.2 mole, 41 g | C(C1=CC=CC=C1)OC(=O)NCCCO | C11H15NO3
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
catalyst | H2SO4 | a few drops | OS(=O)(=O)O | H2O4S
product | 3-(benzyloxycarbonylamino)propyl 2-carboxyphenylacetate | 33 g, 89% | C(=O)(O)C1=C(C=CC=C1)CC(=O)OCCCNC(=O)OCC1=CC=CC=C1 | C20H21NO6
